US06118024
Ammonium thiocyanate (12.35 g) was dissolved in acetone (AR grade, 120 ml) and benzoylchloride (17.3 ml) was added dropwise with stirring over 2 mins. The temperature rose from 22° C. to 38° C. over the addition and a white precipitate formed. The reaction was stirred at room temperature for a further 75 mins and then filtered, and washed with acetone (20 ml) to give a solution of benzoylisothiocyanate. This was added dropwise with stirring to the amine solution, over 40 mins. The temperature rose from 23° C. to 36° C. during the addition. A thick cream precipitate formed. The reaction was allowed to stir at room temperature for 16 hours and then the product was collected by filtration, washed with water (30 ml), sucked dry and then dried in vacuo at 60° C.

reactant | Ammonium thiocyanate | 12.35 g | [S-]C#N.[NH4+]
reactant | benzoylchloride | 17.3 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | benzoylisothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
